US04150032
3-Cyclopropylmethyl-8-methoxy-1,2,4,5-tetrahydro-3H-benz[e]indole
This compound was prepared according to the procedure described by Evans, et al., J. Org. Chem. 35, 4122 (1970) for the synthesis of 3-methyl-1,2,4,5-tetrahydro-3H-benz[e]indole as follows. Into a dry, nitrogen filled, one liter 3-neck flask fitted with reflux condenser, serum cap, dropping funnel and magnetic stirrer, was added a solution of 38.55 g (167.9 mmol) XIIa in dry tetrahydrofuran (THF) (50 ml) which was placed under a slow stream of nitrogen. A 2.20 M solution of isopropyl magnesium chloride in THF (96.1 ml, 211.7 mmol) was added slowly via a syringe at such a rate as to maintain gently reflux. After the addition (15 min), 30.72 g (214.2 mmol) of bromochloroethan was added to the warm reaction mixture at a rate sufficient to maintain gentle refluxing. After the addition of the alkylhalide, an additional 52.3 ml (115 mmol) of the Grignard reagent was added to the reaction again at a controlled rate. The reaction mixture was cooled in an ice-bath and 270 ml of 1 M aqueous solution of ethylenediaminetetraacetic acid tetrasodium salt was added slowly (with stirring) and then 600 ml of a 1:1 etherbenzene was added. The organic layer was separated and the aqueous phase was extracted with ether. The combined extracts were washed with water (2×100 ml) and dried (MgSO4). Removal of the solvent by evaporation gave 43.0 g (99%) of XIIIa as a pale yellow oxygen-sensitive oil; IR (neat), 1635 cm-1 (C=C--N).

reactant | 3-methyl-1,2,4,5-tetrahydro-3H-benz[e]indole | CN1CCC=2C3=C(CCC12)C=CC=C3 | C13H15N
reactant | isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | bromochloroethan | 214.2 mmol, 30.72 g | BrC(C)Cl | C2H4BrCl
reactant | ethylenediaminetetraacetic acid tetrasodium salt | [Na+].[Na+].[Na+].[Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 211.7 mmol, 96.1 ml | O1CCCC1 | C4H8O
product | 3-Cyclopropylmethyl-8-methoxy-1,2,4,5-tetrahydro-3H-benz[e]indole | C1(CC1)CN1CCC=2C3=C(CCC12)C=CC(=C3)OC | C17H21NO
